US04771008
(1) Preparation of t-butoxycarbonylglycyl thyroxine methyl ester (Boc-Gly-T4 -OCH3)
To the Boc-Gly-OSu solution was added under ice-cooling the thyroxine methyl ester solution. The resulting mixture was allowed to stand to reach room temperature, and then stirred for 1.5 hrs. The reaction liquid was allowed to stand overnight, and to this were added 25 ml. of distilled water and 50 ml. of ethyl acetate for extraction with the ethyl acetate. The extraction with 25 ml. of ethyl acetate was repeated three times. The ethyl acetate extracts were combined and dried over anhydrous magnesium sulfate. The dry extract was concentrated in a rotary evaporator and subjected to gel chromatography using a column filled with Sephadex LH-20 (tradename of Pharmacia Corp.). In this procedure, a mixture of acetone and methanol in a volume ratio of 4:1 was employed as the developing solvent. Under confirmation by TLC, the fractions containing the desired product were collected and concentrated under reduced pressure to obtain a crystalline product. There was obtained 950 mg. (yield 82.5%) of the desired product.

reactant | Boc-Gly-OSu | N(CC(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C11H16N2O6
reactant | thyroxine methyl ester | COC([C@@H](N)CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)=O | C16H13I4NO4
solvent | water | O | H2O
product | t-butoxycarbonylglycyl thyroxine methyl ester | yield 82.5% | COC([C@@H](NC(CNC(=O)OC(C)(C)C)=O)CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)=O | C23H24I4N2O7
